US04973695
Isopropyl alcohol 150 ml and maleic acid 30.7 g (0 264 mol) were placed in 200 ml four-neck flask equipped with a reflux condenser. After heating the content to 70° C., a mixture of 22.2 g (0.264 mol) of 2-ethyl-2-propenal and 32.9 g (0.176 mol) of ethyl β-amino-β-ethoxycarbonylacrylate were added dropwise thereto with air-bubbling and refluxed for 10 hours. After removal of isopropyl alcohol, 100 ml of water was added thereto and the reaction mixture was neutralized with sodium carbonate. Oil layer was separated and concentrated under reduced pressure to obtain 16.5 g of 5-ethyl-2,3-diethoxycarbonylpyridine.

reactant | maleic acid | 264 mol, 30.7 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | 2-ethyl-2-propenal | 0.264 mol, 22.2 g | C(C)C(C=O)=C | C5H8O
reactant | ethyl β-amino-β-ethoxycarbonylacrylate | 0.176 mol, 32.9 g | NC(=CC(=O)OCC)C(=O)OCC | C8H13NO4
solvent | Isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
product | 5-ethyl-2,3-diethoxycarbonylpyridine | 16.5 g | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
